US06344476B1
A slurry of methylamine hydrochloride (9.51 g, 141 mmol, 3.1 equiv) in anh. toluene (600 mL) at 0° C. was treated with AlMe3 (2M in toluene, 70 mL, 141 mmol, 3.1 equiv) over 10 min. The resulting solution was stirred at 0° C. for 1 h then allowed to warm to room temp. and stirred for 40 min. Methyl 3-amino-5-tert-butylthiophene-2-carboxylate (9.87 g, 46 mmol) was added to the aluminum amide solution. The resulting mixture was heated at the reflux temp. for 3 d, cooled to 0° C., and a 6N HCl solution was added dropwise. The quenched mixture was made basic with a 20% KOH solution (95 mL). The resulting slurry was partitioned between H2O (300 mL) and EtOAc (300 mL) and the aqueous layer was extracted with EtOAc (3×300 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to afford N-methyl-3-amino-5-tert-butylthiophene-2-carboxamide as a green-yellow solid (9.47 g, 97%): mp 230-1° C.; TLC (20% EtOAc/CH2Cl2) Rf0.23; 1H NMR (d6-DMSO) δ1.28 (s, 9H), 2.63 (d, J=4.8 Hz, 3H), 6.29 (br s, 2H), 6.37 (d, J=1.1 Hz, 1H), 7.22 (q, J=4.0 Hz, 1H).

reactant | methylamine hydrochloride | 141 mmol, 9.51 g, 3.1 equiv | Cl.CN
reactant | AlMe3 | 141 mmol, 2M, 70 mL, 3.1 equiv | C[Al](C)C
reactant | Methyl 3-amino-5-tert-butylthiophene-2-carboxylate | 46 mmol, 9.87 g | NC1=C(SC(=C1)C(C)(C)C)C(=O)OC | C10H15NO2S
reactant | HCl | 6N | Cl | ClH
reactant | KOH | 95 mL | [OH-].[K+]
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-3-amino-5-tert-butylthiophene-2-carboxamide | 9.47 g, 97% | CNC(=O)C=1SC(=CC1N)C(C)(C)C | C10H16N2OS
